US07517875B2
After dissolving 1-N-Boc-4-aminomethylpiperidine (1.08 g, 5.04 mmol) in acetonitrile (8.0 mL), the mixture was cooled to 0° C. A solution of 1,1′-thiocarbonyldiimidazole (988 mg, 5.54 mmol) and imidazole (103 mg, 1.51 mmol) in acetonitrile (10 mL) was added dropwise thereto, and the mixture was stirred at room temperature for 2 hours. Next, 2-amino-5-fluorobenzenesulfonamide (1.25 g, 6.55 mmol) and dimethylaminopyridine (739 mg, 6.05 mmol) were added to the reaction mixture, which was then stirred at 80° C. overnight. Diisopropylcarbodiimide (0.233 mL, 1.51 mmol) was added thereto, and the mixture was stirred for 1 hour. The reaction mixture was cooled to room temperature and then concentrated under reduced-pressure, and the residue was dissolved in ethyl acetate (50 mL). This was washed with water (20 mL) and saturated brine (20 mL), and then dried over anhydrous sodium sulfate. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:2→2:3) to obtain 4-{[(7-fluoro-1,1-dioxo-4H-benzo[e]1,2,4-thiadiazin-3-yl)amino]methyl}piperidine carboxylic acid tert-butyl ester.

reactant | 1-N-Boc-4-aminomethylpiperidine | 5.04 mmol, 1.08 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CN | C11H22N2O2
reactant | 1,1′-thiocarbonyldiimidazole | 5.54 mmol, 988 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 1.51 mmol, 103 mg | N1C=NC=C1 | C3H4N2
reactant | 2-amino-5-fluorobenzenesulfonamide | 6.55 mmol, 1.25 g | NC1=C(C=C(C=C1)F)S(=O)(=O)N | C6H7FN2O2S
reactant | dimethylaminopyridine | 6.05 mmol, 739 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Diisopropylcarbodiimide | 1.51 mmol, 0.233 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | acetonitrile | 8.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-{[(7-fluoro-1,1-dioxo-4H-benzo[e]1,2,4-thiadiazin-3-yl)amino]methyl}piperidine carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NS(C2=C(N1)C=CC(=C2)F)(=O)=O | C18H25FN4O4S
